### ISSUE TITLE
Simp attribute now breaks proof

### ISSUE THREAD

**Issue by astahfrom** [JLimperg/aesop#20]
I don't know if this is a regression or just a change in behaviour, but a recent commit broke one of my proofs.
This is on nightly-2022-06-26.

The below works on commit b4f7a9090b85ac5954d786667978ffe72e534ae9.

```lean

import Aesop

attribute [aesop safe (cases (patterns := [List.Mem _ []]))] List.Mem
attribute [aesop unsafe 50% constructors] List.Mem
attribute [aesop unsafe 50% (cases (patterns := [List.Mem _ (_ :: _)]))] List.Mem

@[aesop safe [constructors, (cases (patterns := [All _ [], All _ (_ :: _)]))]]
inductive All (P : α → Prop) : List α → Prop where
  | none : All P []
  | more {x xs} : P x → All P xs → All P (x :: xs)

@[simp]
theorem All.cons (P : α → Prop) (x : α) (xs : List α)
  : All P (x :: xs) ↔ (P x ∧ All P xs) := by
  aesop

theorem mem (P : α → Prop) (xs : List α)
  : All P xs ↔ ∀ a : α, a ∈ xs → P a := by
  induction xs <;> aesop
```

However, on commit be85358454d40f9d2b89ffde6f12781d1c1dfeb8, the `aesop` call at the end produces the following error:

```
aesop: failed to prove the goal after exhaustive search.

After applying safe rules, Aesop tried to solve these goals:

(unprovable)
case cons.mp
α : Type u_1
P : α → Prop
head✝ : α
tail✝ : List α
a✝² : α
: True
: All P tail✝
: P head✝
: a✝² ∈ head✝ :: tail✝
⊢ P a✝²
```

The `aesop` calls works again on that commit if I remove the `simp` attribute from the `All.cons` theorem.
So the `simp` attribute was harmless before, but no longer is.

**Comment by astahfrom** [comment]
Thanks! I'm no expert in these things. Maybe @Kha has some input?
